US07910613B2
18: Cyclopr-opanecarboxylic acid (5-furan-3-yl-4-phenyl-thiazol-2-yl)-amide
100 μL of a 0.3M stock solution of 5-furan-3-yl-4-phenyl-thiazol-2-ylamine and 120 μL of a 0.3M stock solution of pyridine were mixed with 120 μL of a 0.3M stock solution of cyclopropanecarbonyl chloride. The reaction mixture was shaken overnight at ambient temperature. Purification was performed by preparative LC-MS.

reactant | 5-furan-3-yl-4-phenyl-thiazol-2-ylamine | O1C=C(C=C1)C1=C(N=C(S1)N)C1=CC=CC=C1 | C13H10N2OS
reactant | cyclopropanecarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | Cyclopr-opanecarboxylic acid (5-furan-3-yl-4-phenyl-thiazol-2-yl)-amide | O1C=C(C=C1)C1=C(N=C(S1)NC(=O)C1CC1)C1=CC=CC=C1 | C17H14N2O2S
